US08017601B2
Step 1: 1-(4-(8-methoxyisoquinolin-5-yl)phenyl)-5-oxopyrrolidine-3-carboxylic acid
A mixture of methyl 1-(4-(8-methoxyisoquinolin-5-yl)phenyl)-5-oxopyrrolidine-3-carboxylate (220 mg, 0.58 mmol) in dioxane (2 mL) was treated with NaOH (1N, 1 mL). The mixture was heated to 80° C. for 17 h and the solvents were evaporated to dryness. MS (ESI pos. ion) m/z: 363 (M+H). The acid was dissolved in DMF (2 mL) and was treated with HBTU (450 mg, 1.25 mmol) and Et3N (1 mL). The solution was divided into two equal portions and was used directly.

reactant | methyl 1-(4-(8-methoxyisoquinolin-5-yl)phenyl)-5-oxopyrrolidine-3-carboxylate | 0.58 mmol, 220 mg | COC=1C=CC(=C2C=CN=CC12)C1=CC=C(C=C1)N1CC(CC1=O)C(=O)OC | C22H20N2O4
reactant | NaOH | 1N, 1 mL | [OH-].[Na+]
reactant | HBTU | 1.25 mmol, 450 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 1 mL | CCN(CC)CC | C6H15N
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 1-(4-(8-methoxyisoquinolin-5-yl)phenyl)-5-oxopyrrolidine-3-carboxylic acid | COC=1C=CC(=C2C=CN=CC12)C1=CC=C(C=C1)N1CC(CC1=O)C(=O)O | C21H18N2O4
